US08039472B2
A mixture of 5-chlorovanillic acid (5.0 g, 24.6 mmol) and conc. HCl (5 ml) in MeOH (100 ml) is heated at reflux for 48 hours. The solvent is removed in vacuo and water is added to the residue to yield a white precipitate, which is collected by filtration, washed with water, and then dissolved in Et2O. The solution is dried (Na2SO4) and the solvent removed in vacuo to yield 3-Chloro-4-hydroxy-5-methoxy-benzoic acid methyl ester as a white solid.

reactant | 5-chlorovanillic acid | 24.6 mmol, 5.0 g | ClC=1C(=C(C=C(C(=O)O)C1)OC)O | C8H7ClO4
reactant | HCl | 5 ml | Cl | ClH
reactant | MeOH | 100 ml | CO | CH4O
product | 3-Chloro-4-hydroxy-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)O)Cl)=O | C9H9ClO4
